US06384041B1
D. Preparation of the Compound 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol
A mixture of 7.72 g (30 mmol) of 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-2-thiouracil, 22.5 g of Raney Ni, 330 mL of water, and 23 mL of concentrated ammonium hydroxide was heated to reflux for 150 minutes. The mixture was filtered warm and then concentrated under vacuum to 6.34 g of tan solid. The solid was slurried in 100 mL of ethyl ether and solids collected by filtration. The solids were dried to 6.16 g (91.2%) of 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol as an off white solid. nmr (500 MHz, dmso-d6) δ0.82 (t, J=7.4 Hz, 3H), 1.54 (q, J=7.4 Hz, 2H), 2.63 (s, 2H), 3.85 (m, 2H), 3.95 (m, 2H), 6.10 (s, 2H), 7.71 (s, 1H), 11.45 (s, 1H)

reactant | 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-2-thiouracil | 30 mmol, 7.72 g | NC1=C(C(NC(N1)=S)=O)CC1(OCCO1)CC | C10H15N3O3S
reactant | ammonium hydroxide | 23 mL | [OH-].[NH4+]
catalyst | Ni | [Ni] | Ni
solvent | water | 330 mL | O | H2O
product | 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol | NC1=C(C(=NC=N1)O)CC1(OCCO1)CC | C10H15N3O3
